US06248771B1
A solution of phenol (optionally substituted) in dimethyl suiphoxide was added to a stirred mixture of potassium tert-butoxide in dimethyl suiphoxide at room temperature. After 15 minutes 2,4-diamino-5-fluoroquinazoline was added all at once (as the solid) and the mixture was heated to ca 50° C. for 7 hours. After cooling to room temperature the suspension was diluted with water, the solid collected by is filtration, washed, recrystallized from ethanol or n-butyl acetate and dried at 50° C. in vacuo. In particular, 4-Amino-5-fluoroquinazoline was prepared from 2,6-difluorobenzonitrile (Lancaster, Acros) according to the published method (J. Heterocyclic. Chem. 28, 1357 (1991)).

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2,4-diamino-5-fluoroquinazoline | NC1=NC2=CC=CC(=C2C(=N1)N)F | C8H7FN4
solvent | dimethyl suiphoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Amino-5-fluoroquinazoline | NC1=NC=NC2=CC=CC(=C12)F | C8H6FN3
